US06200988B1
1.60·2.20 (2H, m, —CH2 CH2O—), 2.04 (3H, s, -OCH3), 2.24 (3H, s, >NCOCH3), 2.24, 2.30 (6H, sx 2, —CH3×2), 3.34 (1H, m, Indoline C3—H), 3.94 (2H, m, Indoline C2—H), 4.12 (2H, t, J=7.1 Hz, —CH2 CH2O—), 6.67 (1H, s, Indoline C5—H), 7.90 (1H, s, Indoline C7—H). (3) 1-Acetyl-3-(2-acetoxyethyl)-4,6-dimethylindoline (2.0 g) was dissolved in AcOH (40 ml) and Br2 (1.9 g) was added, which was followed by stirring at room temperature for 30 min. The reaction mixture was poured into ice water and precipitate was collected by filtration. The precipitate was dissolved in CHCl3, and the mixture was washed with water and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3/MeOH=50/1−10/1) to give 2.7 g of crude crystals of 1-acetyl-3-(2-acetoxyethyl)-5-bromo-4,6-dimethylindoline. The crude crystals were added by portions to a mixture of nitric acid (0.47 ml), AcOH (10 ml) and conc. hydrochloric acid (10 ml) under ice-cooling, and the mixture was stirred at the same temperature for 4 hr. The reaction mixture was poured into ice water and precipitate was collected by filtration. The precipitate was dissolved in CHCl3. After washing with water, the mixture was dried over anhydrous sodium sulfate and CHCl3 was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3/MeOH=50/1−10/1) to give 1.4 g of 1-acetyl-3-(2-acetoxyethyl)-5-bromo-4,6-dimethyl-7-nitroindoline.

reactant | NCOCH3 | C(#N)OC | C2H3NO
reactant | Indoline | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1-Acetyl-3-(2-acetoxyethyl)-4,6-dimethylindoline | 2.0 g | C(C)(=O)N1CC(C2=C(C=C(C=C12)C)C)CCOC(C)=O | C16H21NO3
reactant | Br2 | 1.9 g | BrBr | Br2
reactant | nitric acid | 0.47 ml | [N+](=O)(O)[O-] | HNO3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | AcOH | 40 ml | CC(=O)O | C2H4O2
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | 1-acetyl-3-(2-acetoxyethyl)-5-bromo-4,6-dimethyl-7-nitroindoline | 1.4 g | C(C)(=O)N1CC(C2=C(C(=C(C(=C12)[N+](=O)[O-])C)Br)C)CCOC(C)=O | C16H19BrN2O5
